US04082764
2-Amino-5-methylbenzophenone is reacted with methyl orthoacetate, whereby 2-(1-methoxyethylideneamino)-5-methylbenzophenone is obtained. The product is reacted with hydrazine hydrate, whereby 3-amino-3,4-dihydro-2, 6-dimethyl-4-hydroxy-4-phenylquinazoline (colorless peates melting at 192° to 196° C) is obtained. The product is reacted with chloroacetylchloride, followed by the same treatment as Example 1, whereby 3-chloroacetylamino-3, 4-dihydro-2, 6-dimethyl-4-hydroxy-4-phenylquinazoline having 1/2 mole of water of crystallization (colorless powdery crystals melting at 90° to 93° C) is obtained. The product is heated with acetic acid, whereby crystals of 2-(3-chloromethyl-1-methyl-s-triazol-4-yl)-5-methylbenzophenene are obtained. Recrystallization from benzene gives colorless needles melting at 167° to 168° C. Overall yield: 42%.

reactant | 2-Amino-5-methylbenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C | C14H13NO
reactant | methyl orthoacetate | C(C)(OC)([O-])[O-]
product | 2-(1-methoxyethylideneamino)-5-methylbenzophenone | COC(C)=NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C | C17H17NO2
